US04277420
Synthesis of dl N-(α-methylphenacyl)benzamide
In a flame dried nitrogen purged 100 ml round bottom flask equipped with a nitrogen inlet, magnetic stirring bar and reflux condenser were placed 12 ml (152 mmol)pyridine, 34 g (150 mmol)benzoic anhydride and 3 g (34 mmol) d,l-alanine. The solution was heated at 125°-25° C. for two hours. After cooling to room temperature, the solution was carefully diluted with saturated sodium bicarbonate and the product taken up in ethyl acetate. The organic layer was separated and was washed ten times (100 ml water each). The solvent was removed under reduced pressure. This material was steam distilled for 11/2 hours and the pot residue taken up in ethyl acetate and carefully washed with sodium bicarbonate (3×100ml). The solution was filtered through a 1"×3" plug of dry silica geland the solvent removed under reduced pressure. The resulting oil was crystallized from diethylether by slow evaporation to pure dl N-(α-methylphenacyl) benzamide, mp=87°-89° C.

reactant | pyridine | 152 mmol, 12 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoic anhydride | 150 mmol, 34 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | d,l-alanine | 34 mmol, 3 g | NC(C)C(=O)O | C3H7NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(α-methylphenacyl)benzamide | CC(C(=O)C1=CC=CC=C1)NC(=O)C2=CC=CC=C2 | C16H15NO2
